US09024041B2
Intermediate A28: 3-Cyclopropyl-1-p-tolyl-1H-pyrazol-5-amine
To a solution of acetonitrile (500 μL, 390 mg, 9.6 mmol) in THF (30 mL) at RT was added a solution of potassium 2-methylbutan-2-olate in toluene (1.7 M, 17.0 mL, 29.0 mmol) followed by the dropwise addition of ethyl cyclopropanecarboxylate (4.56 mL, 4.37 g, 38.0 mmol) and the reaction mixture maintained at RT for 16 hr. The resulting mixture was concentrated in vacuo to a volume of ˜15 mL and was then diluted with EtOH (20 mL) and p-tolylhydrazine hydrochloride (1.52 g, 9.57 mmol) was added. The mixture was acidified to pH 1 by the addition of conc hydrochloric acid and the resulting heterogeneous mixture was heated to 70° C. for 2 hr, then cooled to RT and concentrated in vacuo to a volume of ˜20 mL. The mixture was diluted with water (30 mL) and was adjusted to pH 12 by the addition of 2M aq NaOH and extracted with diethyl ether (2×20 mL). The combined organic extracts were washed with brine (30 mL) and then dried and evaporated in vacuo. The residue was triturated with isohexane (20 mL) to afford the title compound, Intermediate A28, as a beige solid (1.60 g, 77%); Rt 3.35 min (Method 1 basic); m/z 214 (M+H)+, (ES+).

reactant | acetonitrile | 9.6 mmol, 500 μL, 390 mg | C(C)#N | C2H3N
reactant | potassium 2-methylbutan-2-olate | CC(C)(CC)[O-].[K+]
reactant | toluene | 29.0 mmol, 1.7 M, 17.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl cyclopropanecarboxylate | 38.0 mmol, 4.56 mL, 4.37 g | C1(CC1)C(=O)OCC | C6H10O2
reactant | p-tolylhydrazine hydrochloride | 9.57 mmol, 1.52 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-Cyclopropyl-1-p-tolyl-1H-pyrazol-5-amine | C1(CC1)C1=NN(C(=C1)N)C1=CC=C(C=C1)C | C13H15N3
